US05424329
Ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate
Prepared from ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate (Monge Vega A, et al., An. Ouim. 72:267) by catalytic hydrogenolysis in ethanol as described in Example 15. Recrystallization from ether gives the product in 80% yield; mp 140°-142° C.

reactant | ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | CN1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OCC | C19H19NO3
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 5-hydroxy-1-methyl-1H-indole-2-carboxylate | 80% yield | OC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H13NO3
